US06355648B1
5′-(3,4-Difluorophenyl)-spiro[cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime).
Prepared from 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′ (1′H)-one 2′(O-benzyloxime) (1.0 g, 2.6 mmol) and 3,4-difluorophenyl boronic acid (1.6 g, 5.2 mmol of a 50% solution of acid in THF/water) according to Example 45 procedure A. The product was purified by flash silica gel chromatography (eluant: 10:0.5 hexane:ethyl acetate) to give the desired product (0.75 g, 1.7 mmol, 69%) as a viscous oil. 1H NMR (500 MHz, DMSO-d6) δ 1.41-1.78 (8H, m) 1.95-1.99 (2H, q) 5.00 (2H, s) 6.82 (1H, d) 7.28-7.46 (8H, m) 7.58 (1H, q) 7.67-7.71 (1H, m) 9.61 (1H, s); MS (ESI(−ve)) m/z 417 (M−H)−.

reactant | 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′ (1′H)-one 2′(O-benzyloxime) | 2.6 mmol, 1.0 g | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)Br | C20H21BrN2O
reactant | 3,4-difluorophenyl boronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
solvent | THF water | C1CCOC1.O
product | 5′-(3,4-Difluorophenyl)-spiro[cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) | 1.7 mmol, 0.75 g, 69% | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)C2=CC(=C(C=C2)F)F | C26H24F2N2O
